US07915424B2
2-Fluoro-5-(5-methoxypyridin-3-ylethynyl)-benzonitrile
Add bis(triphenylphosphine)palladium (II) dichloride (77 mg, 0.1 mmol), copper (I) iodide (44 mg, 0.23 mmol), and 3-ethynyl-5-methoxypyridine (300 mg, 2.3 mmol), (prepared as described in PREPARATION 10), to a solution of 2-fluoro-5-iodobenzonitrile (670 mg, 2.7 mmol) in triethylamine (3.4 mL, 34 mmol) and heat at 60° C. for 2.75 h. Cool to room temperature and concentrate. Purify the residue by silica gel chromatography, eluting with 100:0 to 80:20 dichloromethane/ethyl acetate followed by a second silica gel chromatography, eluting with 75:25 to 60:40 hexanes:ethyl acetate to give the title compound as a white solid (510 mg, 90%).

reactant | 3-ethynyl-5-methoxypyridine | 2.3 mmol, 300 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
reactant | 2-fluoro-5-iodobenzonitrile | 2.7 mmol, 670 mg | FC1=C(C#N)C=C(C=C1)I | C7H3FIN
reactant | triethylamine | 34 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.1 mmol, 77 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.23 mmol, 44 mg | [Cu]I
product | 2-Fluoro-5-(5-methoxypyridin-3-ylethynyl)-benzonitrile | 510 mg, 90% | FC1=C(C#N)C=C(C=C1)C#CC=1C=NC=C(C1)OC | C15H9FN2O
